US09126940B2
2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetic acid (0.18 mgs, 0.67 mmol) was dissolved in dry THF (7 mls). To this solution was added ethanol (0.037 mls, 0.81 mmol) and resin bound triphenylphosphine (0.93 g, 2.014 mmol, 2.16 mmol/g). This mixture was gentyl stirred at room temperature for 20 minutes. Diisopropylazidodicarboxylate (0.34 mls, 1.68 mmol) was then added and the mixture was stirred at room temperature for one hour, then filtered, and the resin rinsed several times with EtOAc. The filtrate was concentrated and the resulting material was purified by Flash 40 Biotage (40M cartridge, 30% EtOAc/Hexanes) to give 137 mgs (70%) of ethyl 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate as an orange oil.

reactant | 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetic acid | 0.67 mmol, 0.18 mgs | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CC(=O)O)C | C14H19BO4
reactant | ethanol | 0.81 mmol, 0.037 mls | C(C)O | C2H6O
reactant | triphenylphosphine | 2.014 mmol, 0.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 7 mls | C1CCOC1 | C4H8O
product | ethyl 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate | 137 mgs, 70% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)CC(=O)OCC)C | C16H23BO4
